US07141596B2
Step 2. tert-Butyl [(1S)-1-(1H-benzimidazol-2-yl)-2-(3-bromo-4-iodophenyl)ethyl]carbamate
A solution of tert-butyl [(1S)-2-[(2-aminophenyl)amino]-1-(3-bromo-4-iodobenzyl)-2-oxoethyl]carbamate (640 mg, 1.14 mmol) in acetic acid (30.0 mL) was stirred at 40° C. for 2 h. The solution was concentrated in vacuo. The residue was diluted with ethyl acetate, washed with water, dried with sodium sulfate, filtered, and concentrated in vacuo to yield the desired product (610 mg, 98%). 1H NMR (400 MHz, CD3OD): δ 7.80 (d, 1H), 7.6 (m, 3H), 7.3 (m, 2H), 6.94 (d, 1H), 5.13 (m, 1H), 3.39 (m, 1H), 3.09 (m, 1H), 1.37 (s, 9H); LCMS found for C20H22BrIN3O2 (M+H)+: m/z=542, 544.

reactant | tert-butyl [(1S)-2-[(2-aminophenyl)amino]-1-(3-bromo-4-iodobenzyl)-2-oxoethyl]carbamate | 1.14 mmol, 640 mg | NC1=C(C=CC=C1)NC([C@H](CC1=CC(=C(C=C1)I)Br)NC(OC(C)(C)C)=O)=O | C20H23BrIN3O3
solvent | acetic acid | 30.0 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl [(1S)-1-(1H-benzimidazol-2-yl)-2-(3-bromo-4-iodophenyl)ethyl]carbamate | 610 mg, 98% | N1C(=NC2=C1C=CC=C2)[C@H](CC2=CC(=C(C=C2)I)Br)NC(OC(C)(C)C)=O | C20H21BrIN3O2
